US04892578
A solution of 4.0 grams (0.013 mole) of N-(2,3-dichloro-4-methylphenyl)phthalimide, 2.3 grams (0.013 mole) of N-bromosuccinimide and 0.3 gram of benzoyl peroxide in 200 ml of carbon tetrachloride was heated under reflux for 22 hours. The cooled reaction mixture was poured into 500 ml of ethyl acetate. The solution was washed with three 100 ml portions of water. The organic layer was dried with magnesium sulfate and was filtered. The filtrate was concentrated under reduced pressure to a residue. The residue was subjected to column chromatography on silica gel. Elution was accomplished using ethyl acetate:heptane (1:4). The appropriate fractions were combined and concentrated under reduced pressure to yield 4.4 grams of N-(4-bromomethyl-2,3-dichlorophenyl)phthalimide as a solid.

reactant | N-(2,3-dichloro-4-methylphenyl)phthalimide | 0.013 mole, 4.0 grams | ClC1=C(C=CC(=C1Cl)C)N1C(C=2C(C1=O)=CC=CC2)=O | C15H9Cl2NO2
reactant | N-bromosuccinimide | 0.013 mole, 2.3 grams | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.3 gram | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | carbon tetrachloride | 200 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | N-(4-bromomethyl-2,3-dichlorophenyl)phthalimide | 4.4 grams | BrCC1=C(C(=C(C=C1)N1C(C=2C(C1=O)=CC=CC2)=O)Cl)Cl | C15H8BrCl2NO2
